US08937083B2
To a solution of N-(1-(5-fluoropyridin-3-yl)-3-vinyl-1H-pyrazol-4-yl)isobutyramide (0.706 g, 2.57 mmol) in tetrahydrofuran (12.87 ml) and water (12.87 ml) was added osmium tetroxide (0.164 ml, 0.026 mmol). After 10 minutes at room temperature, sodium periodate (1.101 g, 5.15 mmol) was added in portions over 3 minutes and the resulting solution was stirred at room temperature. After 18 hours, the solution was poured into 10 mL water and was extracted with 3×10 mL dichloromethane. The combined organic layers were dried, concentrated and chromatographed (0-100% ethyl acetate/hexanes) to give N-(1-(5-fluoropyridin-3-yl)-3-formyl-1H-pyrazol-4-yl)isobutyramide (626 mg, 2.266 mmol, 88% yield) as a yellow solid: mp 140.0-142.0° C.; 1H NMR (300 MHz, CDCl3) δ 10.12 (s, 1H), 9.14 (s, 1H), 8.90 (d, J=2.0 Hz, 1H), 8.82 (s, 1H), 8.51 (d, J=2.5 Hz, 1H), 7.92 (dt, J=9.2, 2.4 Hz, 1H), 2.65 (dt, J=13.8, 6.9 Hz, 1H), 1.31 (d, J=6.9 Hz, 6H); ESIMS m/z 277 ([M+H]+).

reactant | N-(1-(5-fluoropyridin-3-yl)-3-vinyl-1H-pyrazol-4-yl)isobutyramide | 2.57 mmol, 0.706 g | FC=1C=C(C=NC1)N1N=C(C(=C1)NC(C(C)C)=O)C=C | C14H15FN4O
reactant | sodium periodate | 5.15 mmol, 1.101 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 12.87 ml | O1CCCC1 | C4H8O
solvent | water | 12.87 ml | O | H2O
catalyst | osmium tetroxide | 0.026 mmol, 0.164 ml | [Os](=O)(=O)(=O)=O
solvent | water | 10 mL | O | H2O
product | N-(1-(5-fluoropyridin-3-yl)-3-formyl-1H-pyrazol-4-yl)isobutyramide | 2.266 mmol, 626 mg, 88% yield | FC=1C=C(C=NC1)N1N=C(C(=C1)NC(C(C)C)=O)C=O | C13H13FN4O2
